US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-Adamantylcarbonyl chloride (795 mg) and pyridine (0.33 ml) were added to 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1 g) in anhydrous 1,2-dichloroethane (20 ml). The mixture was refluxed with heat for one hour. After the reaction mixture was allowed to cool, crystals so precipitated were collected by filtration, to thereby obtain 1.58 g of the titled compound as a white solid (yield: 99.8%).

reactant | 1-Adamantylcarbonyl chloride | 795 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | pyridine | 0.33 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-oxo-3-tert-butoxycarbonylamino-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1 g | O=C1C(CNC2=C(N1)C=CC=C2)NC(=O)OC(C)(C)C | C14H19N3O3
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.58 g, yield: 99.8% | O=C1C(CN(C2=C(N1)C=CC=C2)C(=O)C21CC3CC(CC(C2)C3)C1)NC(=O)OC(C)(C)C | C25H33N3O4
